data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2208,2448,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][C-:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH:1]12[C:2]([c:3]3[cH:4][cH:5][cH:6][cH:7][cH:8]3)([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:19][C:20]2([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,29.035603681022124,-9.15871238343667
1058,1153,[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]([CH3:13])=[O:14])=[N+:15]([CH3:16])[C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]([CH3:13])=[O:14])[N:15]([CH3:16])[C:17]1([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,27.932326880349542,-45.571489911721365
403,439,[CH3:1][O:2]/[C:3]([F:4])=[C:5](\[F:6])[O:7][CH3:8].[CH3:9][C:10](=[O:11])[C:12](=[O+:13][NH-:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][O:2][C@@:3]1([F:4])[C@:5]([F:6])([O:7][CH3:8])[NH:14][O:13][C:12]1([C:10]([CH3:9])=[O:11])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,17.008115915335967,-53.943692309265785
781,844,[CH3:1][O:2]/[C:3]([Cl:4])=[C:5](\[Cl:6])[O:7][CH3:8].[CH3:9][O:10][C:11](=[O:12])[CH-:13][NH+:14]=[C:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20]>>[CH3:1][O:2][C@@:3]1([Cl:4])[C@:5]([Cl:6])([O:7][CH3:8])[CH:13]([C:11]([O:10][CH3:9])=[O:12])[NH:14][C:15]1([C:16]#[N:17])[C:18]([CH3:19])=[O:20],water,298.15,29.448972135861343,-7.2402376512714515
1003,1093,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]#[N:23])[o+:24]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[O:18][C:19](=[O:20])[C:21]3([C:22]#[N:23])[O:24]1,water,298.15,11.60373969352113,-37.51322420683499
4220,4826,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([CH3:20])[n+:21]1[CH3:22]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([CH3:20])[O:18][C:16](=[O:17])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[N:21]1[CH3:22],water,298.15,35.97715787303664,8.716125335892798
4186,4789,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:16]([CH3:17])([C:18]#[N:19])[O:15][C:14]2([C:12]([CH3:11])=[O:13])[C:20]([CH3:21])=[O:22],water,298.15,10.743006372545226,-28.300943496856565
4967,5654,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C:8](=[NH+:9][C-:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:9][C:8]1([C:6]([CH3:5])=[O:7])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,35.761452708835904,-10.5289106580994
734,796,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][NH:9][C:10](=[O:11])[N-:12][NH+:13]=[C:14]([C:15](=[O:16])[O:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[N:12]([C:10]([NH:9][CH3:8])=[O:11])[NH:13][C:14]1([C:15](=[O:16])[O:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,31.7824460644854,-34.979496345673155
4515,5150,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[O:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,17.369436068455435,-45.66744804547982
3748,4286,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([CH3:18])[CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]1([CH3:18])[CH3:19],water,298.15,11.459382917776502,-48.535172861065575
519,566,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:13]=[N:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,12.370934694335736,-42.99908595052757
